US05753664
7H-Pyrrolo[2,3-d]pyrimidin-4(3H)-one
In methanol (714 ml) was suspended 2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (15.06 g) followed by addition of 28% sodium methoxide/methanol (18.4 ml). While this solution was stirred at 50° C., Raney nickel was added until disappearance of the starting compound had been verified by TLC. The catalyst was then filtered off and the filtrate was neutralized with 1N-HCl (90 ml). The solvent was then distilled off under reduced pressure and the resulting precipitate was collected by filtration, rinsed serially with water, methanol and ether, and dried to provide the title compound (8.1 g). 1H-NMR (DMSO-d6) 8: 6.44(1H,d,J=3.0Hz), 7.03(1H,d,J=3.OHz), 7.83(1H,s), 11.80(1H,brs).

reactant | 2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 15.06 g | SC=1NC(C2=C(N1)NC=C2)=O | C6H5N3OS
reactant | sodium methoxide methanol | 18.4 ml | C[O-].[Na+].CO
solvent | methanol | 714 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 7H-Pyrrolo[2,3-d]pyrimidin-4(3H)-one | 8.1 g | N1=CNC(C2=C1NC=C2)=O | C6H5N3O
